US04451462
A mixture of 9.1 g (0.05 mole) of 4-methyl-3-(3-oxobutyl)-maleic acid anhydride and 11 g (0.053 mole) of piperidinium benzoate in 200 ml of benzene is heated under reflux for 48 hours using a water separator. The benzene is removed in vacuo and the residue that remains is partitioned between methylene chloride and saturated sodium bicarbonate solution. The crude product remaining after drying and after removal of the methylene chloride is chromatographed over silica gel with petroleum ether/ether. Subsequent recrystallisation from ether/petroleum ether yields 3-methyl-6-(piperidin-1-yl)-benzofuran-2(3H)-one having a melting point of 78°-80° C.

reactant | piperidinium benzoate | 0.053 mole, 11 g | C(C1=CC=CC=C1)(=O)[O-].[NH2+]1CCCCC1
reactant | water | O | H2O
reactant | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 3-methyl-6-(piperidin-1-yl)-benzofuran-2(3H)-one | CC1C(OC2=C1C=CC(=C2)N2CCCCC2)=O | C14H17NO2
